US07482366B2
Palladium catalyst ([1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1), 1.3 g, 1.59 mmol), potassium acetate (4.7 g, 47.7 mmol), and bis(pinacolato)diboron (6.05 g, 23.8 mmol) were placed into a flask and degassed with stream of N2 for 20 min. In a separate flask, 1-(4-bromo-furan-2-yl)-ethanone (3.0 g, 15.9 mmol) was dissolved in 30 ml anhydrous DMSO and degassed with stream of N2 for 20 min. The DMSO solution of 1-(4-bromo-furan-2-yl)-ethanone was added to the “catalyst” flask, and then heated at 80° C. overnight. After cooling to ambient temperature, water and ethyl acetate were added to the reaction mixture. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (10→30% EtOAC/Hexane, 0.25% Et3N in hexane) to give 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-furan-2-yl]-ethanone as a colorless oil (3.27 g, 87% yield). 1H-NMR (400 MHz, CDCl3): δ 1.33 (s, 12H), 2.47 (s, 3H), 7.37 (d, 1H, J=0.60), 7.89 (d, 1H, J=0.68).

reactant | potassium acetate | 47.7 mmol, 4.7 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 23.8 mmol, 6.05 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1-(4-bromo-furan-2-yl)-ethanone | 15.9 mmol, 3.0 g | BrC=1C=C(OC1)C(C)=O | C6H5BrO2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 1.59 mmol, 1.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-furan-2-yl]-ethanone | 3.27 g, 87% yield | CC1(OB(OC1(C)C)C=1C=C(OC1)C(C)=O)C | C12H17BO4
